US07625903B2
5-Fluoro-N2-{3-[2-(4-morpholinyl)ethyl]phenyl}-N4-[2-(4-thiomorpholinylcarbonyl)phenyl]-2,4-pyrimidinediamine
Ethyl 2-{[5-fluoro-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}benzoate (200 mg, 0.51 mmoles) and thiomorpholine (2 mL) were heated at 120° C. for 48 h. The reaction mixture was concentrated to dryness under vacuum and the title compound was purified by flash chromatography on silica gel (using ethyl acetate containing 0.1% triethylamine). MS: M(C27H31FN6O2S)=522.2, (M+H)+=523.

reactant | Ethyl 2-{[5-fluoro-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}benzoate | 0.51 mmoles, 200 mg | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)CCN1CCOCC1)NC1=C(C(=O)OCC)C=CC=C1 | C25H28FN5O3
reactant | thiomorpholine | 2 mL | N1CCSCC1 | C4H9NS
product | 5-Fluoro-N2-{3-[2-(4-morpholinyl)ethyl]phenyl}-N4-[2-(4-thiomorpholinylcarbonyl)phenyl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)CCN1CCOCC1)NC1=C(C=CC=C1)C(=O)N1CCSCC1 | C27H31FN6O2S
